US05763463
Preparation of N-(3-chloro-2-ethylpyridin-4-yl)-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide (Intermediate No. 12)
3.6 g (12.1 mmol) of 4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetic acid was dissolved in 20 ml of 4dioxane, and the solution was stirred at room temperature. Then, 2.4 g (14.8 mmol) of 1,1'-carbonyldiimidazole was gradually added thereto, and the mixture was stirred for one hour at room temperature. Then, 1.8 g (11.5 mmol) of 4-amino-3-chloro-2-ethylpyridine was added thereto, and the mixture was refluxed under heating for 30 minutes. The reaction solution was concentrated, and the residue was extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate) to obtain 3.0 g of the desired product as colorless cotton-like crystals (melting point: 124.5° to 125° C.).

reactant | 4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetic acid | 12.1 mmol, 3.6 g | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)CC(=O)O)(F)F | C14H10F3NO3
reactant | 1,1'-carbonyldiimidazole | 14.8 mmol, 2.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-amino-3-chloro-2-ethylpyridine | 11.5 mmol, 1.8 g | NC1=C(C(=NC=C1)CC)Cl | C7H9ClN2
product | N-(3-chloro-2-ethylpyridin-4-yl)-4-[(5-trifluoromethylpyridin-2-yl)oxy]phenylacetamide | 3.0 g | ClC=1C(=NC=CC1NC(CC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O)CC | C21H17ClF3N3O2
